US06166052
[S-(R*,R*)]-N-[2-(4-Benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-2-(1-methylethyl-amino)-3-(1H-imidazol-4-yl)-propionamide
A solution of N-isopropylhistidine (302 mg, 1.53 mmol), (S)-2-amino-3-(4-benzyloxy-phenyl)-N-tert-butyl-propionamide (500 mg, 1.32 mmol), and benzyltrimethylammonium methoxide (40% solution in methanol, 2.1 mL, 3.36 mmol) in 10 mL dry DMF was cooled to 3° C. Then, HBTU (581 mg, 1.53 mmol) was added and the resulting mixture stirred at 3° C. for 60 minutes, warmed to 25° C., diluted with 35 mL diethyl ether, and washed with saturated aqueous sodium bicarbonate solution (35 mL) as well as with brine (35 mL), dried over anhydrous sodium sulfate, and concentrated at reduced pressure. The residue thus obtained was further purified twice by silica gel chromatography using 10% methanol in chloroform as eluant, to give 122 mg (13%) of the title compound as the dihydrochloride salt.

reactant | N-isopropylhistidine | 1.53 mmol, 302 mg | C(C)(C)N[C@@H](CC1=CNC=N1)C(=O)O | C9H15N3O2
reactant | (S)-2-amino-3-(4-benzyloxy-phenyl)-N-tert-butyl-propionamide | 1.32 mmol, 500 mg | N[C@H](C(=O)NC(C)(C)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C20H26N2O2
reactant | benzyltrimethylammonium methoxide | 3.36 mmol, 2.1 mL | C[O-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | HBTU | 1.53 mmol, 581 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 35 mL | C(C)OCC | C4H10O
product | N-[2-(4-Benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-2-(1-methylethyl-amino)-3-(1H-imidazol-4-yl)-propionamide | 122 mg, 13% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(NC(C)(C)C)=O)NC(C(CC=1N=CNC1)NC(C)C)=O | C29H39N5O3
